US08710245B2
(b) Synthesis of 5-bromo-4-methylthiophene-2-carbaldehyde
To a solution of 2-bromo-3-methylthiophene (2.66 g, 15.0 mmol) in dry THF (10 mL) at −65° C. was added LDA solution (15.0 mmol) dropwise. After stirring for 30 min, DMF (3.0 g, 10.0 mmol) in dry THF (3 mL) was added dropwise and the reaction was stirred at −65° C. for 2 h. The reaction was warmed to room temperature and water was added. The quenched mixture was extracted with EtOAc (3×100 mL). The combined extract was washed with brine and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound.

reactant | 2-bromo-3-methylthiophene | 15.0 mmol, 2.66 g | BrC=1SC=CC1C | C5H5BrS
reactant | LDA | 15.0 mmol | [Li+].CC(C)[N-]C(C)C
reactant | DMF | 10.0 mmol, 3.0 g | CN(C)C=O | C3H7NO
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-bromo-4-methylthiophene-2-carbaldehyde | BrC1=C(C=C(S1)C=O)C | C6H5BrOS
